US07981879B2
Step 2: N-(4-fluorobenzyl)-3-hydroxy-10,10-dimethyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a][1,4]diazepine-2-carboxamide
Crude N-(4-fluorobenzyl)-5,6-dihydroxy-2-{1-[(3-hydroxypropyl)amino]-1-methylethyl}pyrimidine-4-carboxamide prepared as described in Step 1 was dissolved in THF, and treated with triphenylphosphine (1.5 eq.) and DEAD (1.5 eq.). The mixture was stirred under nitrogen, after 14 hours additional reagents (2 eq.) were necessary to complete reaction. Solvent was evaporated under vacuo and the residue loaded on cation exchange resin. The resin was washed with methanol and desired product was eluted with 2 N ammonia solution in methanol. Evaporation of appropriate fractions and further purification of the residue by RP HPLC (C18, 5 μM, H2O/MeCN with 1% of TFA as eluant) gave, after lyophilization, title compound as a white solid.

reactant | N-(4-fluorobenzyl)-5,6-dihydroxy-2-{1-[(3-hydroxypropyl)amino]-1-methylethyl}pyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=NC(=C2O)O)C(C)(C)NCCCO)C=C1 | C18H23FN4O4
reactant | triphenylphosphine | 1.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.5 eq. | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-fluorobenzyl)-3-hydroxy-10,10-dimethyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-a][1,4]diazepine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(CCCNC3(C)C)C(C2O)=O)C=C1 | C18H21FN4O3
